US07923561B2
rac-N5-(3-Methanesulfonyl-phenyl)-N2-(6-methoxy-indan-1-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=460.4 (M+H+), was prepared in accordance with the general method of example 6 from 5-iodo-2-chloroquinoline, 6-methoxyindan-1-ylamine (CAS 103028-81-5) and 3-methylsulfonylaniline.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 6-methoxyindan-1-ylamine | COC1=CC=C2CCC(C2=C1)N | C10H13NO
reactant | 3-methylsulfonylaniline | CS(=O)(=O)C=1C=C(N)C=CC1 | C7H9NO2S
product | rac-N5-(3-Methanesulfonyl-phenyl)-N2-(6-methoxy-indan-1-yl)-quinoline-2,5-diamine | CS(=O)(=O)C=1C=C(C=CC1)NC=1C=2C=CC(=NC2C=CC1)NC1CCC2=CC=C(C=C12)OC | C26H25N3O3S
